US04933355
2-(Thiomorpholin-4-yl)thiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 1.2 g of 2-(thiomorpholin-4-yl)thiazol-4-ylmethanol, 2.65 g of sulfur trioxide pyridine complex, 1.68 g of triethylamine and 30 ml of dimethyl sulfoxide, giving the title compound as a colorless powder.

reactant | 2-(thiomorpholin-4-yl)thiazol-4-ylmethanol | 1.2 g | N1(CCSCC1)C=1SC=C(N1)CO | C8H12N2OS2
reactant | triethylamine | 1.68 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-(Thiomorpholin-4-yl)thiazole-4-carbaldehyde | N1(CCSCC1)C=1SC=C(N1)C=O | C8H10N2OS2
